US06268387B1
3-Amino-4-methoxy-N-(3-chlorophenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (3.0 mL, 34.39 mmol), 4-methoxy-3-nitrobenzoic acid (5.00 g, 25.36 mmol), DMF (0.5 mL, 6.46 mmol), and 3-chloroaniline (5.4 mL, 51.05 mmol). The reduction was performed as described but using DMF as the solvent to afford the product (2.29 g) after trituration in hexane; m.p. 144-146° C. after recrystallization from ethyl acetate.

reactant | oxalyl chloride | 34.39 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 25.36 mmol, 5.00 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | DMF | 6.46 mmol, 0.5 mL | CN(C)C=O | C3H7NO
reactant | 3-chloroaniline | 51.05 mmol, 5.4 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | hexane | CCCCCC | C6H14
product | 3-Amino-4-methoxy-N-(3-chlorophenyl)-benzamide | 2.29 g | NC=1C=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC1OC | C14H13ClN2O2
